US06573293B2
5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (3-diethylamino-propyl)amide
5-Bromo-1,3-dihydroindol-2-one (0.5 g, 2.36 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-diethylaminopropyl)amide (0.51 g) to give 0.84 g of the title compound as a red-orange solid.

reactant | 5-Bromo-1,3-dihydroindol-2-one | 2.36 mmol, 0.5 g | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-diethylaminopropyl)amide | 0.51 g | C(C)N(CCCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C15H25N3O2
product | 5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (3-diethylamino-propyl)amide | 0.84 g | C(C)N(CCCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC=C(C=C12)Br)=O)C)CC | C23H29BrN4O2
